US07202257B2
Commercially available 3-nitrobenzoic acid is reacted with methylamine and EDC under standard conditions to afford N-methyl-3-nitrobenzamide, which is reduced with LAH under standard conditions to afford N-methyl(3-nitrophenyl)methanamine, which is protected with benzylchloroformate under standard conditions to yield t-butyl 3-nitrobenzylmethylcarbamate. This material is nitrosated and reduced to yield t-butyl 3-hydrzazinobenzylmethylcarbamate.

reactant | 3-nitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | methylamine | CN | CH5N
solvent | EDC
product | N-methyl-3-nitrobenzamide | CNC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C8H8N2O3
